US04694082
The compound N-isopropyl-α-chloroacetamide (2.71 g; 0.02 mole) and benzyltriethylammonium chloride (0.09 g) were dissolved in methylene chloride (50 ml) in a 100 ml flask. A 50% by weight sodium hydroxide solution (16 g) was added to the mixture, and the mixture was stirred vigorously at 40° C. for three days. Thereafter, the organic phase was separated, dried and evaporated. The residue of the evaporation (found to be four parts product per part starting material) was recrystallized from ethyl alcohol to yield 0.7 g (36%) of 1,4-diisopropyl-2,5-diketopiperazine. All spectral data were consistent with this structure.

reactant | N-isopropyl-α-chloroacetamide | 0.02 mole, 2.71 g | C(C)(C)NC(CCl)=O | C5H10ClNO
reactant | sodium hydroxide | 16 g | [OH-].[Na+]
catalyst | benzyltriethylammonium chloride | 0.09 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1,4-diisopropyl-2,5-diketopiperazine | 0.7 g, 36% | C(C)(C)N1C(CN(C(C1)=O)C(C)C)=O | C10H18N2O2
